US07579488B2
B. 3-(5-Bromo-benzofuran-2-yl)-pentan-3-ol.
To a stirred solution of 5-bromo-benzofuran-2-carboxylic acid ethyl ester (24.3 g, 90.3 mmol) in THF (300 mL) at −40° C. is added ethyl magnesium bromide (90.3 mL, 3.0 M). The reaction is allowed to warm to RT and stirred for 2 h before quenched with water and HCl (1.0 M) till pH˜2. The THF is removed in vacuum and the mixture is extracted with EtOAc (200 mL, 100 mL). The organic layer is dried over Na2SO4, concentrated, purified on column chromatography (10-15% EtOAc/Hex), to give the title compound as an oil (22.4 g, 88%)

reactant | 5-bromo-benzofuran-2-carboxylic acid ethyl ester | 90.3 mmol, 24.3 g | C(C)OC(=O)C=1OC2=C(C1)C=C(C=C2)Br | C11H9BrO3
reactant | ethyl magnesium bromide | 3.0 M, 90.3 mL | C(C)[Mg]Br
reactant | THF | 300 mL | C1CCOC1 | C4H8O
product | 3-(5-Bromo-benzofuran-2-yl)-pentan-3-ol | 22.4 g, 88% | BrC=1C=CC2=C(C=C(O2)C(CC)(CC)O)C1 | C13H15BrO2
